US08648066B2
A suspension of -(2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)benzoate hydrochloride (1.30 g, 4.14 mmol), 4-chloro-5-[(4-fluorophenyl)methyl]-6-methylpyrimidine (reagent preparation 5) (0.98 g, 4.14 mmol), and potassium carbonate (1.71 g, 12.4 mmol) in DMF (20 mL) was heated to 130° C. for 18 h. The reaction mixture was cooled to room temperature, diluted with ethyl acetate (40 mL), and then washed with water (50 mL) and brine (20 mL). The organic layer was dried over sodium sulfate then filtered and concentrated. Column chromatography on silica (gradient 10 to 20% ethyl acetate in hexane) followed by recrystallization from 1:1 ethyl acetate and ether (40 mL) provided methyl 4-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)benzoate (1.05 g, 50% yield) as a white solid. 1H NMR (400 MHZ, DMSO-D6): 8.48 (s, 1H), 8.01 (d, 2H), 7.62 (d, 2H), 7.56 (dd, 1H), 7.11 (d, 4H), 7.02 (d, 1H), 6.91 (d, 1H), 4.52 (s, 2H), 4.32 (m, 2H), 3.95 (s, 2H), 3.90 (s, 3H), 3.76 (m, 2H), 2.13 (s, 3H); MS (EI) for C29H26FN3O3: 484 (MH+).

reactant | (2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)benzoate hydrochloride | 4.14 mmol, 1.30 g | Cl.O1CCNCC2=C1C=CC(=C2)OC(C2=CC=CC=C2)=O
reactant | 4-chloro-5-[(4-fluorophenyl)methyl]-6-methylpyrimidine | 4.14 mmol, 0.98 g | ClC1=NC=NC(=C1CC1=CC=C(C=C1)F)C | C12H10ClFN2
reactant | potassium carbonate | 12.4 mmol, 1.71 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 40 mL | C(C)(=O)OCC | C4H8O2
product | methyl 4-(4-{5-[(4-fluorophenyl)methyl]-6-methylpyrimidin-4-yl}-2,3,4,5-tetrahydro-1,4-benzoxazepin-7-yl)benzoate | 1.05 g, 50% yield | FC1=CC=C(C=C1)CC=1C(=NC=NC1C)N1CCOC2=C(C1)C=C(C=C2)C2=CC=C(C(=O)OC)C=C2 | C29H26FN3O3
